US05576343
3.12 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate was dissolved in 100 ml of tetrahydrofuran, followed by the addition of 4.65 g of (5-cyano-2-benzofuranyl)methyltriphenylphosphonium chloride. To the thus prepared solution was added 400 mg of 60% sodium hydride. With stirring, to the resulting mixture was added dropwise 3 ml of ethanol, followed by stirring at room temperature for 1 hour. The resulting reaction solution was neutralized with 10% citric acid solution, extracted with ethyl acetate, and then dried to distill off the solvent. Thereafter, the residue thus obtained was subjected to silica gel column chromatography using a toluene/ethyl acetate mixture as an elution solvent, thereby obtaining 3.1 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)acrylate in the form of viscous oil as a mixture of E and Z forms. A portion of the thus obtained compound was separated into E and Z forms.

reactant | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate | 3.12 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)=O | C19H25NO6
reactant | (5-cyano-2-benzofuranyl)methyltriphenylphosphonium chloride | 4.65 g | [Cl-].C(#N)C=1C=CC2=C(C=C(O2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)acrylate | 3.1 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)=CC=1OC2=C(C1)C=C(C=C2)C#N | C29H30N2O6
